* NGSPICE file created from ip_column_mux.ext - technology: gf180mcuD

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__buf_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__buf_1 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_8 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_8 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_16 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_16 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_2 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_1 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_4 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_4 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__endcap abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__endcap VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor3_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor3_1 A1 A2 A3 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__filltie abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__filltie VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkinv_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkinv_1 I ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_32 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_32 VDD VNW VPW VSS
.ends

.subckt ip_column_mux A[0] A[1] A[2] VDD VSS Y[0] Y[1] Y[2] Y[3] Y[4] Y[5] Y[6]
Xoutput7 _08_/ZN Y[3] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_3_58 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_3_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_3_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_3_14 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_2_100 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xoutput10 _11_/ZN Y[6] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput8 _09_/ZN Y[4] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_0_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xoutput9 _10_/ZN Y[5] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_2_102 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_0_16 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_1_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_1_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XPHY_EDGE_ROW_0_Left_4 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_1_Right_1 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_1_96 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_09_ _03_/I _04_/I _11_/A3 _09_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
X_08_ _10_/A1 _11_/A2 _05_/I _08_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
X_07_ _03_/I _11_/A2 _05_/I _07_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
XTAP_TAPCELL_ROW_0_10 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_06_ _10_/A1 _04_/I _05_/I _06_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
X_05_ _05_/I _11_/A3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XFILLER_1_88 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_1_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_04_ _04_/I _11_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
Xinput1 A[0] _03_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XTAP_TAPCELL_ROW_3_13 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_1_100 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_03_ _03_/I _10_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XTAP_TAPCELL_ROW_3_14 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput2 A[1] _04_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_1_102 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_1_Left_5 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_3_15 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput3 A[2] _05_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_0_Right_0 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_1_26 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_1_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_2_84 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_2_52 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XPHY_EDGE_ROW_2_Left_6 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XTAP_TAPCELL_ROW_0_8 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_0_100 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_0_9 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_1_11 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_2_45 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_2_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_0_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_0_90 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XPHY_EDGE_ROW_3_Right_3 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_3_100 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_2_47 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_2_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_3_70 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XPHY_EDGE_ROW_3_Left_7 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_3_94 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_12_ _03_/I _04_/I _05_/I _12_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
X_11_ _03_/I _11_/A2 _11_/A3 _11_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
XFILLER_3_30 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_0_53 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_10_ _10_/A1 _04_/I _11_/A3 _10_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
XFILLER_3_86 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_0_65 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_3_98 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_3_10 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XPHY_EDGE_ROW_2_Right_2 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xoutput4 _12_/ZN Y[0] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_3_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_3_22 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XTAP_TAPCELL_ROW_2_12 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_0_67 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xoutput6 _07_/ZN Y[2] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput5 _06_/ZN Y[1] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
.ends

