* NGSPICE file created from ip_column_mux.ext - technology: gf180mcuD

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__buf_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__buf_1 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_2 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_1 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__endcap abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__endcap VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor3_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor3_1 A1 A2 A3 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__filltie abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__filltie VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkinv_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkinv_1 I ZN VDD VNW VPW VSS
.ends

.subckt ip_column_mux A[0] A[1] A[2] VDD VSS Y[0] Y[1] Y[2] Y[3] Y[4] Y[5] Y[6]
Xoutput7 _08_/ZN Y[3] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput8 _09_/ZN Y[4] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput10 _11_/ZN Y[6] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_3_26 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xoutput9 _10_/ZN Y[5] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_1_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_3_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XPHY_EDGE_ROW_0_Left_4 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_1_Right_1 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_09_ _03_/I _04_/I _11_/A3 _09_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
X_08_ _10_/A1 _11_/A2 _05_/I _08_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
X_07_ _03_/I _11_/A2 _05_/I _07_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
X_06_ _10_/A1 _04_/I _05_/I _06_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
XTAP_TAPCELL_ROW_3_10 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_05_ _05_/I _11_/A3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
X_04_ _04_/I _11_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
Xinput1 A[0] _03_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_03_ _03_/I _10_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
Xinput2 A[1] _04_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_1_25 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_1_Left_5 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xinput3 A[2] _05_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_0_Right_0 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_2_9 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_2_Left_6 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_2_32 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XTAP_TAPCELL_ROW_0_8 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_2_4 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_2_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_2_13 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_3_Right_3 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XPHY_EDGE_ROW_3_Left_7 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_39 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_12_ _03_/I _04_/I _05_/I _12_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
X_11_ _03_/I _11_/A2 _11_/A3 _11_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
X_10_ _10_/A1 _04_/I _11_/A3 _10_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
XFILLER_0_32 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xoutput4 _12_/ZN Y[0] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_2_Right_2 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xoutput6 _07_/ZN Y[2] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput5 _06_/ZN Y[1] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
.ends

